*BZG03C47 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*47V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG03C47 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  46.43
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=75.6P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=304U RS=6.14 N=5.5)
.ENDS